US09290468B2
Step 11: 4-fluoro-5-((4-bromo-2-chlorophenyl)amino)benzo[d]thiazole-6-carboxylic acid
To a solution of methyl 4-fluoro-5-((4-bromo-2-chlorophenyl)amino)benzo[d]thiazole-6-carboxylate (8.74 g, 21.02 mmol) in THF and MeOH (20 mL, 4:1, v/v) was added 5.0 M LiOH (aq., 9.5 mL). After stirring at ambient temperature for 2 h, the reaction was treated with 10% HCl (aq.) till the solution was acidic. The aqueous layer was extracted with ethyl acetate (50 mL×3). The combined organic phase was washed with water (100 mL) and brine (100 mL) sequentially, dried over Na2SO4, filtered and concentrated to give the desired product (8.08 g, 95.7% yield). 1H NMR (400 MHz, DMSO-d6): δ 11.09 (s, 1H), 9.18 (s, 1H), 8.71 (s, 1H), 8.47 (s, 1H), 7.44 (m, 1H), 7.31 (m, 1H), 6.65 (m, 1H).

reactant | methyl 4-fluoro-5-((4-bromo-2-chlorophenyl)amino)benzo[d]thiazole-6-carboxylate | 21.02 mmol, 8.74 g | FC1=C(C(=CC2=C1N=CS2)C(=O)OC)NC2=C(C=C(C=C2)Br)Cl | C15H9BrClFN2O2S
reactant | LiOH | 5.0 M, 9.5 mL | [Li+].[OH-]
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
product | 4-fluoro-5-((4-bromo-2-chlorophenyl)amino)benzo[d]thiazole-6-carboxylic acid | 8.08 g, 95.7% yield | FC1=C(C(=CC2=C1N=CS2)C(=O)O)NC2=C(C=C(C=C2)Br)Cl | C14H7BrClFN2O2S
